US06462195B1
Comparative Example of Preparation of methyl 3-methoxy-2-[2-(2-isopropoxy-6-trifluoromethylpyrimidin-4-yloxymethyl)phenyl]acrylate (Compound 2)
2.22 g of 2-isopropoxy-6-trifluoromethyl-4-hydroxypyrimidine and 0.72 g of copper(I) oxide were suspended in 30 ml of toluene. The suspension was refluxed until no water was recognized to form, while formed water was being taken into a quantitative water receiver. 3.08 g of methyl 3-methoxy-2-(2-bromomethylphenyl)acrylate was added at an instance. The reaction was carried out for 5 hours at reflux of toluene. Then the solution was cooled down to room temperature. Insoluble matter was filtrated and further washed with 20 ml of acetone twice. The mixed solution of the obtained filtrate and washings was analyzed with high-performance liquid chromatography. The reaction yield was 22.3% and as for byproducts 0.7% for methyl 3-methoxy-2-[2-(2-isopropoxy-6-trifluoromethylpyrimidin-4-on-3-yloxymethyl)phenyl]acrylate and 77% for 4-(α-methoxy) methylen-2H-chromen-3(4H)-one.

reactant | 2-isopropoxy-6-trifluoromethyl-4-hydroxypyrimidine | 2.22 g | C(C)(C)OC1=NC(=CC(=N1)O)C(F)(F)F | C8H9F3N2O2
reactant | water | O | H2O
reactant | methyl 3-methoxy-2-(2-bromomethylphenyl)acrylate | 3.08 g | COC=C(C(=O)OC)C1=C(C=CC=C1)CBr | C12H13BrO3
reactant | methyl 3-methoxy-2-[2-(2-isopropoxy-6-trifluoromethylpyrimidin-4-on-3-yloxymethyl)phenyl]acrylate | COC=C(C(=O)OC)C1=C(C=CC=C1)CON1C(=NC(=CC1=O)C(F)(F)F)OC(C)C | C20H21F3N2O6
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | copper(I) oxide | 0.72 g | [Cu-]=O
product | methyl 3-methoxy-2-[2-(2-isopropoxy-6-trifluoromethylpyrimidin-4-yloxymethyl)phenyl]acrylate | yield was 22.3% | COC=C(C(=O)OC)C1=C(C=CC=C1)COC1=NC(=NC(=C1)C(F)(F)F)OC(C)C | C20H21F3N2O5
